US07037925B2
4-(4-Hydroxymethyl-2-methylanilino)-6,7-dimethoxy-3-quinolinecarboxamide
6,7-Dimethoxy-4-(4-methoxycarbonyl-2-methylanilino)-3-quinolinecarboxamide (0.080 g, 0.20 mmol) was dissolved in tetrahydrofuran (25 ml, dried over 4 A molecular sieves). Lithium borohydride (0.15 mg, 6.8 mmol) was added. The mixture was stirred for 24 h and additional lithium borohydride (0.050 g, 2.2 mmol) was added. The reaction mixture was stirred for additional 25 h and then poured into a cooled mixture of water (20 ml) and acetic acid (0.5 ml). Acetic acid (2 ml) was added and the mixture was evaporated under reduced pressure. The residue was suspended in water, filtered and the precipitate was washed with water and re-crystallized from aqueous methanol to give the title compound (32 mg, 43%).

reactant | 6,7-Dimethoxy-4-(4-methoxycarbonyl-2-methylanilino)-3-quinolinecarboxamide | 0.20 mmol, 0.080 g | COC=1C=C2C(=C(C=NC2=CC1OC)C(=O)N)NC1=C(C=C(C=C1)C(=O)OC)C | C21H21N3O5
reactant | Lithium borohydride | 6.8 mmol, 0.15 mg | [BH4-].[Li+]
reactant | lithium borohydride | 2.2 mmol, 0.050 g | [BH4-].[Li+]
reactant | water | 20 ml | O | H2O
reactant | acetic acid | 0.5 ml | C(C)(=O)O | C2H4O2
reactant | Acetic acid | 2 ml | C(C)(=O)O | C2H4O2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 4-(4-Hydroxymethyl-2-methylanilino)-6,7-dimethoxy-3-quinolinecarboxamide | 32 mg, 43% | OCC1=CC(=C(NC2=C(C=NC3=CC(=C(C=C23)OC)OC)C(=O)N)C=C1)C | C20H21N3O4
